### ISSUE TITLE
Rewrite produces non-welltyped proofs

### ISSUE THREAD

**Issue by johoelzl** [leanprover/lean3#1277]
The rewrite tactic may rewrite parameters in dependent types, resulting in non-welltyped proofs. 

As example, I introduced a map function for Σ-types:
```map (f₁ : α₁ → β₁) (f₂ : Π⦃a⦄, α₂ a → β₂ (f₁ a)) : (Σa, α₂ a) → (Σb, β₂ b)```

When f₁ is now rewritten by a propositional equality, the parameter f₂ does not type check anymore. Lean presents a type error in the lemma statement.

Is this a bug in the simplifier and just a error in the dependency tracking? Or is it too expensive? Alternatively, it would be nice if there is an error message at the `end` of the tactic script when the type checking of the entire proof fails. The best option would be if `rw` detects the case and introduces a `cast`, but I assume this would be quite complicated.

Here is the full example:
```
variables {α₁ : Type} {α₂ : α₁ → Type} {β₁ : Type} {β₂ : β₁ → Type}

def map (f₁ : α₁ → β₁) (f₂ : Π⦃a⦄, α₂ a → β₂ (f₁ a)) : (Σa, α₂ a) → (Σb, β₂ b)
| ⟨a₁, a₂⟩ := ⟨f₁ a₁, f₂ a₂⟩

example (f₁ : α₁ → α₁) (f₂ : Π⦃a⦄, α₂ a → α₂ (f₁ a)) (eq₁ : f₁ = id)
  map f₁ f₂ = id :=
begin
  rw [eq₁],
  apply sorry
end
```

**Comment by dselsam** [comment]
I think you may have copied your example incorrectly. Here is a simpler one with a similar issue:

```Lean
example (n₁ n₂ : ℕ) (P : ℕ → Prop) (p₁ : P n₁) (p₂ : P n₂) (H : n₁ = n₂) 
  : sigma.mk n₁ p₁ = sigma.mk n₂ p₂ := begin rw H, exact sorry end
``` 
which gives error
```
/home/dselsam/projects/lean/tmp.lean:1:75: error: type mismatch at application
  sigma.mk a p₁
term
  p₁
has type
  P n₁
but is expected to have type
  P a
```
The tactic that is currently called `rewrite` is a simple find-and-replace and is not designed to handle dependencies. The `simplify` tactic is much more sophisticated and deals with dependencies among other things, and indeed the following works:
```Lean
example (n₁ n₂ : ℕ) (P : ℕ → Prop) (p₁ : P n₁) (p₂ : P n₂) (H : n₁ = n₂) 
  : sigma.mk n₁ p₁ = sigma.mk n₂ p₂ := by simp [H]
```
We can have a "safe" version of `rewrite` that detects type-incorrectness and fails immediately with an appropriate error message. Type-checking is not yet implemented in the `type_context` though, so there is no easy way to export an `is_type_correct` right now.

**Comment by johoelzl** [comment]
Sorry, I was under the wrong impression that `rw` uses the simplifier. Thanks for the hint towards the simplifier. I will look into this.

> Type-checking is not yet implemented in the `type_context` though, so there is no easy way to export an `is_type_correct` right now.

Is the general idea to have "unsafe" tactics? Or would type checking in the `type_context` work for all tactics?

**Comment by dselsam** [comment]
Checking for type-correctness is not a trivial operation so we don't want to have to do it after every single tactic invocation. Primitive tactics will usually be "unsafe", and at the Lean level users can bundle tactics with various sanity checks to create "safe" versions.

**Comment by leodemoura** [comment]
In Lean2, the `rewrite` tactic would type check its result. This check has not been implemented in Lean3 yet, but it is on the TODO list. It has low priority because we have more efficient ways to rewrite things in Lean3 (example, the `simp` tactic). 

> Is the general idea to have "unsafe" tactics?

There are very few "unsafe" primitive tactics in Lean3. `rewrite` is an exception.
In most tactics, we only get an incorrect proof if there is a bug in the implementation.
